US07166598B2
To a solution of 3-sulfamoyl-5-(trifluoromethyl)benzoic acid (200 mg) and 2,5-hexanedione (0.26 ml) in toluene (1 ml) was added p-toluenesulfonic acid monohydrate (28 mg), and the mixture was stirred under reflux with Dean-Stark Trap for 24 hours. Then 2,5-hexanedione (0.26 ml) and p-toluenesulfonic acid monohydrate (30 mg) was added to the mixture, and the mixture was stirred under the same condition for 24 hours. The mixture was evaporated and purified with column chromatography (silica gel, 50 ml, methanol:dichloromethane (5:95–20:80)) to give 3-[(2,5-dimethylpyrrol-1-yl)-sulfonyl]-5-(trifluoromethyl)benzoic acid (280 mg) as a crude solid. The solid was dissolved in a mixture of 1N sodium hydroxide aqueous solution (10 ml) and water (20 ml), and then adjusted to pH 1–2 with 1N hydrochloric acid (20 ml). The resulting powder was collected by filtration and dried under reduced pressure to give pure product (191.1 mg).

reactant | 3-sulfamoyl-5-(trifluoromethyl)benzoic acid | 200 mg | S(N)(=O)(=O)C=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C8H6F3NO4S
reactant | 2,5-hexanedione | 0.26 ml | CC(CCC(C)=O)=O | C6H10O2
reactant | p-toluenesulfonic acid monohydrate | 28 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 2,5-hexanedione | 0.26 ml | CC(CCC(C)=O)=O | C6H10O2
reactant | p-toluenesulfonic acid monohydrate | 30 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[(2,5-dimethylpyrrol-1-yl)-sulfonyl]-5-(trifluoromethyl)benzoic acid | 280 mg | CC=1N(C(=CC1)C)S(=O)(=O)C=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C14H12F3NO4S
